US08563576B2
tert-butyl (2S)-4-(4-bromo-5-methyl-thiazol-2-yl)-2-isobutyl-piperazine-1-carboxylate
2,4-dibromo-5-methyl-thiazole (1.189 g, 3.563 mmol), (S)—N-Boc-2-isobutylpiperazine (863.5 mg, 3.563 mmol) and potassium carbonate (1.477 g, 10.69 mmol) in DMF (15 mL) were heated at 95° C. for 18 h. Cooled to rt, diluted with EtOAc, washed with water, brine, dried (MgSO4), filtered and concentrated in vacuo. Crude product purified by flash chromatography (40 g SiO2, 0 to 5% EtOAc/petrol) to leave impure product as a very pale orange sticky oil (930 mg, 49% based on 78.9% purity); 1H NMR DMSO-d6 δ 0.90 (t, 6H), 1.36-1.31 (br m, 2H), 1.42 (s, 9H), 1.46-1.42 (masked signal, 1H), 2.18 (s, 3H), 3.02-2.91 (m, 2H), 3.14 (dd, 1H), 3.60 (d, 1H), 3.78-3.68 (m, 1H), 3.86 (d, 1H), 4.19 (br s, 1H); ES+ 420.11.

reactant | 2,4-dibromo-5-methyl-thiazole | 3.563 mmol, 1.189 g | BrC=1SC(=C(N1)Br)C | C4H3Br2NS
reactant | (S)—N-Boc-2-isobutylpiperazine | 3.563 mmol, 863.5 mg | C(=O)(OC(C)(C)C)N1[C@H](CNCC1)CC(C)C | C13H26N2O2
reactant | potassium carbonate | 10.69 mmol, 1.477 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl (2S)-4-(4-bromo-5-methyl-thiazol-2-yl)-2-isobutyl-piperazine-1-carboxylate | BrC=1N=C(SC1C)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)CC(C)C | C17H28BrN3O2S
